US06492385B2
Step 63b: Preparation of Ethyl 2-[(tert-butoxycarbonyl)(methyl)amino]-1,3-thiazole-5-carboxylate.
A flask is charged with a suspension of sodium hydride (60% in mineral oil) (0.109 g, 2.72 mmol) in THF (5 mL). The ethyl 2-[(tert-butoxycarbonyl)amino]-1,3-thiazole-5-carboxylate (0.735 g, 2.70 mmol) is added, followed by iodomethane (175 μL, 2.70 mmol) and the resulting suspension is heated to reflux for 3 hours, then cooled to room temperature. Water is added, followed by 1.0 N NaOH. The basic phase is extracted with 3 portions of EtOAc. The combined organic phases are washed with brine, dried over Na2SO4, filtered, and concentrated to give a clear oil purified with flash chromatography. Yield 45%. HRMS (FAB) calculated for C12H18N2O4S+H 287.1065, found 287.1068.

reactant | sodium hydride | 2.72 mmol, 0.109 g | [H-].[Na+]
reactant | ethyl 2-[(tert-butoxycarbonyl)amino]-1,3-thiazole-5-carboxylate | 2.70 mmol, 0.735 g | C(C)(C)(C)OC(=O)NC=1SC(=CN1)C(=O)OCC | C11H16N2O4S
reactant | iodomethane | 2.70 mmol, 175 μL | IC | CH3I
reactant | NaOH | 1.0 N | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | Ethyl 2-[(tert-butoxycarbonyl)(methyl)amino]-1,3-thiazole-5-carboxylate | Yield 45% | C(C)(C)(C)OC(=O)N(C=1SC(=CN1)C(=O)OCC)C | C12H18N2O4S
